US07105516B2
Mixture of cis/trans-2-(5-Cyano-1H-indol-3-yl)-cyclopentanecarboxylic acid methyl ester
Sodium metal (13.5 g, 556 mMol) was carefully added portion-wise to anhydrous methanol (400 mL). A solution of cis-2-(5-cyanoindol-3-yl)-cyclopentanecarboxylic acid ethyl ester (33.1 g, 117 mMol) in methanol (100 mL) was added over 5 minutes. The mixture was heated at a gentle reflux for 18 hours, carefully quenched with water, and evaporated in vacuo. The residue was dissolved ethyl acetate (600 mL), washed with saturated sodium chloride (100 mL), dried over sodium sulfate, and concentrated in vacuo to give the product as an 88:12 cis/trans diastereomeric mixture which was used without further purification (27 g, 86%).

reactant | Sodium | 556 mMol, 13.5 g | [Na] | Na
reactant | cis-2-(5-cyanoindol-3-yl)-cyclopentanecarboxylic acid ethyl ester | 117 mMol, 33.1 g | C(C)OC(=O)[C@H]1[C@H](CCC1)C1=CNC2=CC=C(C=C12)C#N | C17H18N2O2
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 400 mL | CO | CH4O
product | trans-2-(5-Cyano-1H-indol-3-yl)-cyclopentanecarboxylic acid methyl ester | COC(=O)[C@H]1[C@@H](CCC1)C1=CNC2=CC=C(C=C12)C#N | C16H16N2O2
